US06809110B2
In analogy to the procedure described in example 14 b], [rac]-2-ethoxy-3-(4-hydroxy-2-methyl-phenyl)-propionic acid ethyl ester (example 10 b]) was reacted with 4-chloromethyl-2-(4-isopropyl-phenyl)-thiazole (prepared from 4-isopropyl-thiobenzamide and 1,3-dichloroacetone in analogy to the procedure described in example 4 a]) in the presence of cesium carbonate and potassium iodide to yield [rac]-2-ethoxy-3-{4-[2-(4-isopropyl-phenyl)-thiazol-4-ylmethoxy]-2-methyl-phenyl}-propionic acid ethyl ester as colorless liquid.

reactant | [rac]-2-ethoxy-3-(4-hydroxy-2-methyl-phenyl)-propionic acid ethyl ester | C(C)OC(C(CC1=C(C=C(C=C1)O)C)OCC)=O | C14H20O4
reactant | 4-chloromethyl-2-(4-isopropyl-phenyl)-thiazole | ClCC=1N=C(SC1)C1=CC=C(C=C1)C(C)C | C13H14ClNS
reactant | 4-isopropyl-thiobenzamide | C(C)(C)C1=CC=C(C(=S)N)C=C1 | C10H13NS
reactant | 1,3-dichloroacetone | ClCC(=O)CCl | C3H4Cl2O
reactant | cesium carbonate | C([O-])([O-])=O.[Cs+].[Cs+]
reactant | potassium iodide | [I-].[K+]
product | [rac]-2-ethoxy-3-{4-[2-(4-isopropyl-phenyl)-thiazol-4-ylmethoxy]-2-methyl-phenyl}-propionic acid ethyl ester | C(C)OC(C(CC1=C(C=C(C=C1)OCC=1N=C(SC1)C1=CC=C(C=C1)C(C)C)C)OCC)=O | C27H33NO4S
